US05273999
Preparation of 2-[(5-Carboxypentyl)oxy]-6-[6-[[3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid
The 2-[6-[[3,4-dihydro-4-oxo-8-(3-phenylpropyl)-2H-1-benzopyran-7-yl)oxy]hexyl]-6-[(6-methoxy-6-oxohexyl)oxy]benzenepropanoic acid methyl ester from the preceding example (0.38 g; 0.565 mmol) was saponified by stirring with 2 mL of 3N aqueous lithium hydroxide, in 15 mL of tetrahydrofuran for 24 hr, at room temperature. Work-up as in example 4 followed by flash-chromatography on silica gel (eluting with 96:3:1 chloroform-methanol-acetic acid) and recrystallization from hexane-ethyl acetate gave 0.36 g (98%) of the title compound as a colorless solid, mp 97°-98° C.

reactant | 2-[6-[[3,4-dihydro-4-oxo-8-(3-phenylpropyl)-2H-1-benzopyran-7-yl)oxy]hexyl]-6-[(6-methoxy-6-oxohexyl)oxy]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1OCCCCCC(=O)OC)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCCC1=CC=CC=C1)=O | C41H52O8
reactant | lithium hydroxide | 3N, 2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-[(5-Carboxypentyl)oxy]-6-[6-[[3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenepropanoic Acid | 0.36 g, 98% | C(=O)(O)CCCCCOC1=C(C(=CC=C1)CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCC(=O)O | C33H44O8
